US05859053
c) [2S]-2,3-dihydroxy-propyl 2-acetoxybenzoate
The solution from [2S]-1,4-dioxa-spiro[4,5]dec-2-yl-methyl 2-acetoxybenzoate (527 mg, 1.58 mmol) in dichloromethane (10 ml) is treated with trifluoroacetic acid (2 ml). After 2 h at room temperature, the mixture is concentrated, the residue is taken up in toluene (10 ml) and the solution is concentrated. The residue is purified by column chromatography (dichloromethane/methanol=30/1). Yield: 161 mg.

reactant | [2S]-1,4-dioxa-spiro[4,5]dec-2-yl-methyl 2-acetoxybenzoate | 1.58 mmol, 527 mg | C(C)(=O)OC1=C(C(=O)OC[C@H]2OC3(OC2)CCCCC3)C=CC=C1 | C18H22O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | [2S]-2,3-dihydroxy-propyl 2-acetoxybenzoate | C(C)(=O)OC1=C(C(=O)OC[C@H](CO)O)C=CC=C1 | C12H14O6
